US07816522B2
(200b) 5-{{3-[2-(t-Butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-(3-nitropyridin-2-yl)-2,4-dihydro-[1,2,4]triazol-3-one
To 3 ml of a DMF solution containing 70 mg of (2-{3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene)carbamic acid methyl ester, 19 mg of (3-Nitropyridin-2-yl)hydrazine and 0.017 ml of triethylamine were added. The resulting mixture was stirred at 85° C. for 16 hours and concentrated under reduced pressure. The residue was dissolved in 5 ml of methanol, and 58 mg of sodium cyanotrihydroborate and 0.056 ml of acetic acid were added thereto. The mixture was stirred at room temperature for 15 hours. To this reaction mixture, 40 ml of ethyl acetate and 20 ml of water were added. The organic layer was washed with 20 ml of water and then with 20 ml of saturated brine and dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (55 mg).

reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | (2-{3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene)carbamic acid methyl ester | 70 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)OCCO[Si](C)(C)C(C)(C)C)F)SC)=O | C29H37FN4O6SSi
reactant | (3-Nitropyridin-2-yl)hydrazine | 19 mg | [N+](=O)([O-])C=1C(=NC=CC1)NN | C5H6N4O2
solvent | triethylamine | 0.017 ml | C(C)N(CC)CC | C6H15N
product | 5-{{3-[2-(t-Butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-(3-nitropyridin-2-yl)-2,4-dihydro-[1,2,4]triazol-3-one | 55 mg | [Si](C)(C)(C(C)(C)C)OCCOC=1C(=C(C=C(C1)OC)C(C=1NC(N(N1)C1=NC=CC=C1[N+](=O)[O-])=O)NC1=CC=C(C=C1)C1=NOC(=N1)C)F | C32H37FN8O7Si
